US06110952
A solution of 5-amino-4-ethylbenzoxazole (3.98 mmol) in dichloromethane (100 mL) is treated with di-2-pyridyl thionocarbonate (4.39 mmol). The mixture is stirred for two hours. The reaction mixture is concentrated under reduced pressure to yield a brown residue. This material is purified by chromatography (silica gel, 20% ethyl acetate/hexanes) to afford 4-ethyl-5-isothiocyanatobenzoxazole.

reactant | 5-amino-4-ethylbenzoxazole | 3.98 mmol | NC=1C=CC2=C(N=CO2)C1CC | C9H10N2O
reactant | di-2-pyridyl thionocarbonate | 4.39 mmol | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-ethyl-5-isothiocyanatobenzoxazole | C(C)C1=C(C=CC2=C1N=CO2)N=C=S | C10H8N2OS
